US05227401
(2R,3S)-N-[(tert-Butyloxy)carbonyl]-3-amino-2-acetoxy-4-phenylbutanal
Ozone/oxygen was bubbled at -70° C. into a solution of (3S,4S)-N-[(tert-Butyloxy)carbonyl]-4-amino-3-acetoxy-5-phenylpentene (2.55g, 8.0 mmol) (prepared by the method of Hanson, et al., J. Org. Chem. 50, 5399 (1985)) in 100mL of methylene chloride until a deep blue color persisted. Oxygen was introduced until the blue color completely faded, then 3.0 mL of Me2S was added and the solution was allowed to warm to 0°-5° C. and stand overnight. The solvent was removed at 0° C. under vacuum yielding the title compound as a thick yellow oil which was used in the following step without purification.

reactant | Ozone oxygen | O=[O+][O-].O=O
reactant | (3S,4S)-N-[(tert-Butyloxy)carbonyl]-4-amino-3-acetoxy-5-phenylpentene | 8.0 mmol, 2.55g | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=C)OC(C)=O)CC1=CC=CC=C1 | C18H25NO4
reactant | Oxygen | O=O | O2
reactant | Me2S | 3.0 mL | S(C)C | C2H6S
solvent | methylene chloride | 100mL | C(Cl)Cl | CH2Cl2
product | (2R,3S)-N-[(tert-Butyloxy)carbonyl]-3-amino-2-acetoxy-4-phenylbutanal | C(C)(C)(C)OC(=O)N[C@H]([C@H](C=O)OC(C)=O)CC1=CC=CC=C1 | C17H23NO5
